* Pin-order adapters only; vendor files below are unmodified originals.
* Use ngspice PSpice compatibility (ngbehavior=ps).
.include "vendor/microchip/MCP6021.txt"
.include "vendor/ti/LM4040_NA3P0_PSPICE_TRANS/LM4040_NA3P0_TRANS.lib"

* MCP6024 SOIC-14: four instances of Microchip's family macro model.
.subckt MCP6024_VENDOR OUT1 IN1- IN1+ VCC IN2+ IN2- OUT2 OUT3 IN3- IN3+ VEE IN4+ IN4- OUT4
X1 IN1+ IN1- VCC VEE OUT1 MCP6021
X2 IN2+ IN2- VCC VEE OUT2 MCP6021
X3 IN3+ IN3- VCC VEE OUT3 MCP6021
X4 IN4+ IN4- VCC VEE OUT4 MCP6021
.ends MCP6024_VENDOR

* TI LM4040-N A-grade 3.0 V, SOT-23 pins 1=K, 2=A, 3=NC.
.subckt LM4040_3V0 K A NC
XREF K A LM4040_NA3P0
.ends LM4040_3V0
